US07838674B2
8,10-Dioxo-7-aza-dispiro[2.0.2.4]decane-9-carboxylic acid methyl ester
1′-(2-Ethoxycarbonyl-acetylamino)-bicyclopropyl-1-carboxylic acid ethyl ester (1 g; 3.53 mmol) in toluene (15 ml) is added rapidly to a solution of sodium (81 mg; 3.53 mmol) in methanol (3 ml) under stirring. The reaction mixture is warmed to 85° C. for 40 minutes, cooled to room temperature and the precipitate (sodium salt of title compound) filtered, washed with toluene, then heptane, dissolved in water (0.6 ml) and acidified with 2N HCl (1.75 ml). The resulting resin is decanted from water and crystallized by triturating with TBME (1 ml) to deliver the title compound as colorless crystals (633 mg; 80%).

reactant | 1′-(2-Ethoxycarbonyl-acetylamino)-bicyclopropyl-1-carboxylic acid ethyl ester | 3.53 mmol, 1 g | C(C)OC(=O)C1(CC1)C1(CC1)NC(CC(=O)OCC)=O | C14H21NO5
reactant | sodium | 3.53 mmol, 81 mg | [Na] | Na
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 3 ml | CO | CH4O
product | 8,10-Dioxo-7-aza-dispiro[2.0.2.4]decane-9-carboxylic acid methyl ester | COC(=O)C1C(NC2(C3(CC3)C1=O)CC2)=O | C11H13NO4
